US08236826B2
Production of 3,4-dichloro-N-[6-(4-thiomorpholine-4-ylmethylphenoxy)pyridin-3-yl]benzamide monohydrochloride
3,4-dichloro-N-[6-(4-chloromethylphenoxy)-pyridin-3-yl]benzamide (0.61 g, 1.5 mmol) was dissolved in DMF (5 mL). To the resulting solution were added triethylamine (0.84 mL, 6.0 mmol) and thiomorpholine (0.15 mL, 1.5 mmol), and this solution was stirred overnight at 40° C. The resulting reaction solution was concentrated under reduced pressure. To the residue was added ethyl acetate and washed with a saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous magnesium sulfate and evaporated. This residue was purified by silica gel column chromatography (chloroform:methanol=80:1). The obtained solid (0.56 g, 1.18 mmol) was dissolved in ethyl acetate (50 mL), and a solution of 4 N hydrogen chloride in ethyl acetate (0.295 mL, 1.18 mmol) was added, and this solution was stirred for 1 hour at room temperature. The precipitated crystals were collected by suction filtration, and recrystallized from methanol, to thereby yield 0.38 g of the title compound.

reactant | 3,4-dichloro-N-[6-(4-chloromethylphenoxy)-pyridin-3-yl]benzamide | 1.5 mmol, 0.61 g | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CCl)C=CC1Cl | C19H13Cl3N2O2
reactant | triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | thiomorpholine | 1.5 mmol, 0.15 mL | N1CCSCC1 | C4H9NS
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.18 mmol, 0.295 mL | C(C)(=O)OCC | C4H8O2
product | 3,4-dichloro-N-[6-(4-thiomorpholine-4-ylmethylphenoxy)pyridin-3-yl]benzamide monohydrochloride | Cl.ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CN2CCSCC2)C=CC1Cl | InChI=1S/C23H21Cl2N3O2S.ClH/c24-20-7-3-17(13-21(20)25)23(29)27-18-4-8-22(26-14-18)30-19-5-1-16(2-6-19)15-28-9-11-31-12-10-28;/h1-8,13-14H,9-12,15H2,(H,27,29);1H
